US08076345B2
D) 5-Chloro-2-(4-((6-methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A mixture of N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (440 mg, 1.6 mmol), 5-chloro-2-fluorobenzonitrile (630 mg, 4.0 mmol), N,N-diisopropylethylamine (560 uL, 3.2 mmol), and acetonitrile (4.0 mL) was subjected to microwave irradiation at 180° C. for 4 h. After that an additional 5-chloro-2-fluorobenzonitrile (400 mg) was added and the mixture was subjected to microwave irradiation at 180° C. for another 2 h. After cooling, the mixture was treated with aq. NaHCO3 and EtOAc (100 mL). The organic layer was separated, washed with brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by silica gel column (EtOAc: 100%) and the obtained solid was washed with ether to yield an off-white solid (290 mg, 44%).

reactant | N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 1.6 mmol, 440 mg | COC1=CC=C(C=N1)CNC=1C2=C(N=CN1)CCNC2 | C14H17N5O
reactant | 5-chloro-2-fluorobenzonitrile | 4.0 mmol, 630 mg | ClC=1C=CC(=C(C#N)C1)F | C7H3ClFN
reactant | N,N-diisopropylethylamine | 3.2 mmol, 560 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-chloro-2-fluorobenzonitrile | 400 mg | ClC=1C=CC(=C(C#N)C1)F | C7H3ClFN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | 5-Chloro-2-(4-((6-methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 290 mg, 44% | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)OC)CC1 | C21H19ClN6O
